US07037921B2
3-(3-Methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexanecarboxylic acid benzylamide
Combine 3-(3-methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexanecarboxylic acid (50 mg, 0.15 mmol) with 1-[3-(dimethyl-amino)propyl]-3ethylcarbodiimide hydrochloride (32 mg, 0.17 mmol), 1-hydroxy-7-azabenzo-triazole (23 mg, 0.17 mmol), N,N-diisopropylethyl amine (44 mg, 3.4 mmol), and benzylamine (18 mg, 0.17 mmol) in N,N-dimethyl-formamide (4 mL) and stir overnight at ambient temperature. Concentrate in vacuo and take up in water and extract with dichloromethane. Dry the combined extracts over sodium sulfate. Concentrate and elute over silica gel using methanol/dichloromethane to give 60 mg (94%) of the desired product as a white solid. MS(ES): (M+1)+ 417.3, 418.3 m/z.

reactant | 3-(3-methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexanecarboxylic acid | 0.15 mmol, 50 mg | CC=1ON=C2C1C(N(C1=CN=CC=C21)C2CC(CCC2)C(=O)O)=O | C17H17N3O4
reactant | 1-[3-(dimethyl-amino)propyl]-3ethylcarbodiimide hydrochloride | 0.17 mmol, 32 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzo-triazole | 0.17 mmol, 23 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N,N-diisopropylethyl amine | 3.4 mmol, 44 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzylamine | 0.17 mmol, 18 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | N,N-dimethyl-formamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-(3-Methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexanecarboxylic acid benzylamide | 60 mg, 94% | C(C1=CC=CC=C1)NC(=O)C1CC(CCC1)N1C(C=2C(C3=CC=NC=C13)=NOC2C)=O | C24H24N4O3
